US04214094
A mixture of 1.9 g of 4-(4-chloroanilinomethyl)-2-methoxyphenol, 2.11 g of ethyl 2-bromo-2-methylpropionate 1.5 g of potassium carbonate and 29 ml of methyl isobutyl ketone is refluxed for 24 hours. To the mixture is further added 705 mg of ethyl 2-bromo-2-methylpropionate and the resulting mixture is further refluxed for 3 hours. The insolubles are filtered off and the filtrate is washed with water, dried and concentrated under reduced pressure. The residual oil is purified by column chromatography, using 60 g of silica gel and benzene as a developer, to give 1.1 g of ethyl 2-[4-(4-chloroanilinomethyl)-2-methoxyphenoxy]-2-methylpropionate, mp 73° to 74° C. Infrared absorption spectrum (nujol) 3400, 1735 cm-1. N.M.R.spectrum (CDCl3, δ) ppm 6.45-7.33 (7H, m), 4.25 (2H, q, J=7 Hz), 4.20 (2H, s) 3.79 (3H, s), 1.59 (6H, s), 1.30 (3H, t, J=7 Hz)

reactant | 4-(4-chloroanilinomethyl)-2-methoxyphenol | 1.9 g | ClC1=CC=C(NCC2=CC(=C(C=C2)O)OC)C=C1 | C14H14ClNO2
reactant | ethyl 2-bromo-2-methylpropionate | 2.11 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-bromo-2-methylpropionate | 705 mg | BrC(C(=O)OCC)(C)C | C6H11BrO2
solvent | methyl isobutyl ketone | 29 ml | C(C(C)C)C(=O)C | C6H12O
product | ethyl 2-[4-(4-chloroanilinomethyl)-2-methoxyphenoxy]-2-methylpropionate | 1.1 g | ClC1=CC=C(NCC2=CC(=C(OC(C(=O)OCC)(C)C)C=C2)OC)C=C1 | C20H24ClNO4
